US07795315B2
2-(4-Bromo-phenyl)-2-hydroxy-N-(4-trifluoromethyl-phenyl)-acetamide
To a solution of acetic acid (4-bromo-phenyl)-(4-trifluoromethyl-phenylcarbamoyl)-methyl ester (5.7 g, 13.7 mmol) in THF (20 mL) was added LiOH monohydrate (0.863 g, 20.5 mmol) in water (12 mL) dropwise at room temperature. After stirring an additional hour at room temperature, the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate, filtered, and concentrated in vacuo to obtain white solid (5.04 g, 98.8%).

reactant | acetic acid (4-bromo-phenyl)-(4-trifluoromethyl-phenylcarbamoyl)-methyl ester | 13.7 mmol, 5.7 g | BrC1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)C(F)(F)F)=O)OC(C)=O | C17H13BrF3NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 12 mL | O | H2O
product | 2-(4-Bromo-phenyl)-2-hydroxy-N-(4-trifluoromethyl-phenyl)-acetamide | 5.04 g, 98.8% | BrC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)C(F)(F)F)O | C15H11BrF3NO2
